US07074794B2
2-Amino benzamide (13.6 g) was dissolved in 1,4-dioxane (50 mL) and trifluoroacetic acid anhydride (16.8 mL) was dropwise added thereto under ice-cooling. After stirring at room temperature for 1 hr, the reaction mixture was concentrated under reduced pressure. Acetic acid (50 mL) was added to the residue and the mixture was refluxed for 2 hr. After allowing to cool, the precipitated solid was collected by filtration and washed with diethyl ether to give 4-hydroxy-2-trifluoromethylquinazoline (11.9 g) as a white powder.

reactant | 2-Amino benzamide | 13.6 g | NC1=C(C(=O)N)C=CC=C1 | C7H8N2O
reactant | trifluoroacetic acid anhydride | 16.8 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | 4-hydroxy-2-trifluoromethylquinazoline | 11.9 g | OC1=NC(=NC2=CC=CC=C12)C(F)(F)F | C9H5F3N2O
